* G:\SwCADIII\lib\sym\EXTRA\IRF\GATEDRV\IR2104.asc
.SUBCKT IR2104A VCC IN _SD com VB HO VS LO
D1 In Vcc Dd
D2 Com In Dd
D3 HO VB Dd
D4 VS HO Dd
D5 VS VB 25V
C2 VB HO 22p
C3 HO VS 22p Rpar=100k
S1 HO VB 4 0 SH
S2 HO VS 5 0 SL
A2 VB VS 0 0 0 0 3 0 SCHMITT Vt=8.9 Vh=.35
C1 In Com 10p Rpar=1e6
D6 Com VB 625V
D7 _SD Vcc Dd
D8 Com _SD Dd
A4 _SD Com 0 0 0 0 6 0 SCHMITT Vt=1.9 Vh=1 Trise=120n Tripdt=25n
A5 Vcc Com 0 0 0 0 7 0 SCHMITT Vt=8.9 Vh=.35
C4 _SD Com 10p Rpar=1e6
S3 LO Vcc 8 0 SH
S4 LO Com 9 0 SL
D9 LO Vcc Dd
D10 Com LO Dd
D11 Com Vcc 25V
C5 Vcc LO 22p
C6 LO Com 22p Rpar=100k
A3 3 1 0 6 7 5 4 0 AND Trise=100n Tripdt=20n
A6 7 6 0 2 0 9 8 0 AND Trise=100n Tripdt=20n
A1 In Com 0 0 0 2 1 0 SCHMITT Vt=1.9 Vh=1 Trise=1110n Tfall=100n Tripdt=50n
.model D D
.lib G:\SwCADIII\lib\cmp\standard.dio
* >> IR2104 <<\nBehavioral Model\nby analog@ieee.org
.model 25V D(Ron=.5 Vfwd=.5 Vrev=25.2 Roff=25e4)
.model 625V D(Ron=.5 Vfwd=.5 Vrev=625 Roff=12e6)
.model Dd D(Ron=.5 Vfwd=.5)
.model SH SW(Vt=.5 Vh=-.5 Ron=42 Ilimit=.21)
.model SL SW(Vt=.5 Vh=-.5 Ron=20 Ilimit=.36)
* * IR2104 Behavioral Model by analog@ieee.org\n.subckt IR2104 Vcc In _SD Com VB HO VS LO\nC1 Com In 10p Rpar=1e6\nD2 Com In Dd\nD1 In Vcc Dd\nA1 In Com 0 0 0 2 1 0 SCHMITT Vt=1.9 Vh=1\n+ Trise=1110n Tfall=100n Tripdt=50n\nA2 VB VS 0 0 0 0 3 0 SCHMITT Vt=8.9 Vh=.35\nA3 3 1 0 6 7 5 4 0 AND Trise=100n Tripdt=20n\nS1 HO VB 4 0 SH\nC2 HO VB 22p\nD3 HO VB Dd\nS2 HO VS 5 0 SL\nC3 HO VS 22p Rpar=100k\nD4 VS HO Dd\nD5 VS VB 25V\nD6 Com VB 625V\nC4 Com _SD 10p Rpar=1e6\nD8 Com _SD Dd\nD7 _SD Vcc Dd\nA4 _SD Com 0 0 0 0 6 0 SCHMITT Vt=1.9 Vh=1\n+ Trise=120n Tripdt=25n\nA5 Vcc Com 0 0 0 0 7 0 SCHMITT Vt=8.9 Vh=.35\nA6 7 6 0 2 0 9 8 0 AND Trise=100n Tripdt=20n\nS3 LO Vcc 8 0 SH\nC5 LO Vcc 22p\nD9 LO Vcc Dd\nS4 LO Com 9 0 SL\nC6 LO Com 22p Rpar=100k\nD10 Com LO Dd\nD11 Com Vcc 25V\n.model Dd D(Ron=.5 Vfwd=.5)\n.model 25V D(Ron=.5 Vfwd=.5 Vrev=25.2 Roff=25e4)\n.model 625V D(Ron=.5 Vfwd=.5 Vrev=625 Roff=12e6)\n.model SH SW(Vt=.5 Vh=-.5 Ron=42 Ilimit=.21)\n.model SL SW(Vt=.5 Vh=-.5 Ron=20 Ilimit=.36)\n.ends IR2104
.backanno
.ends
