*
.SUBCKT BC327-40 1 2 3
* 
* housing parasitics
LB 2 22 1.2E-009 
LE 1 33 2.3E-009 
LC 3 11 1.7E-009 
CBCG 22 11 3.53E-013 
CBEG 22 33 1.81E-013 
CCEG 11 33 2.37E-013
* 
Q1 11 22 33 BC327-40 
*
.MODEL BC327-40 PNP
+ IS = 2.077E-13 
+ NF = 1.005 
+ ISE = 1.411E-14 
+ NE = 1.3 
+ BF = 449.8 
+ IKF = 0.36 
+ VAF = 29 
+ NR = 1.002 
+ ISC = 2.963E-13 
+ NC = 1.25 
+ BR = 20.92 
+ IKR = 0.104 
+ VAR = 10 
+ RB = 40 
+ IRB = 1E-05 
+ RBM = 5.3 
+ RE = 0.14 
+ RC = 0.32 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 5E-11 
+ VJE = 0.9296 
+ MJE = 0.456 
+ TF = 7E-10 
+ XTF = 3.25 
+ VTF = 2.5 
+ ITF = 0.79 
+ PTF = 80 
+ CJC = 2.675E-11 
+ VJC = 0.8956 
+ MJC = 0.4638 
+ XCJC =  0.459 
+ TR = 3.5E-08 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.935
.ENDS
*
