*
.SUBCKT BC856A 1 2 3
* housing parasitics
LB 2 22 1.25E-9
LE 3 333 1.12E-09
LC 1 11 2.3E-10
CBCG 222 11 6.2E-14
CBEG 222 333 4.5E-14
CCEG 11 333 6.2E-14
Q1 11 222 333 BC856A
D1 11 222 DIODE
*
*The diode does not reflect a physical
*device but improves only modeling
*in the reverse mode of operation.
*
.MODEL BC856A PNP
+ IS = 1.731E-14
+ NF = 1.001
+ ISE = 1.349E-16
+ NE = 1.15
+ BF = 201.9
+ IKF = 0.12
+ VAF = 78
+ NR = 1.002
+ ISC = 4.264E-18
+ NC = 1.15
+ BR = 6.608
+ IKR = 0.045
+ VAR = 12.1
+ RB = 150
+ IRB = 4.5E-05
+ RBM = 0.1
+ RE = 0.7
+ RC = 0.53
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.27E-11
+ VJE = 0.7408
+ MJE = 0.3839
+ TF = 8E-10
+ XTF = 5
+ VTF = 5
+ ITF = 0.1
+ PTF = 0
+ CJC = 6.05E-12
+ VJC = 0.7186
+ MJC = 0.4775
+ XCJC = 1
+ TR = 9E-08
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.85
.MODEL DIODE D
+ IS = 2.593E-14
+ N = 1.296
+ BV = 1000
+ IBV = 0.001
+ RS = 100
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ XTI = 2
+ EG = 1.11
+ XTI = 2
.ENDS
*
