*
.SUBCKT BCV62A 1 2 3 4
*
Q1 2 1 3 QBCV62A 
Q2 1 1 4 QBCV62A 
*
*
.MODEL QBCV62A PNP( 
+     IS = 1.17E-14 
+     NF = 0.9972 
+     ISE = 1.762E-14 
+     NE = 1.661 
+     BF = 161.3 
+     IKF = 0.15 
+     VAF = 59.62 
+     NR = 0.9967 
+     ISC = 1.506E-13 
+     NC = 1.32 
+     BR = 6.78 
+     IKR = 0.048 
+     VAR = 15.4 
+     RB = 10 
+     IRB = 5E-06 
+     RBM = 5 
+     RE = 0.689 
+     RC = 0.61 
+     XTB = 0 
+     EG = 1.11 
+     XTI = 3 
+     CJE = 1.325E-11 
+     VJE = 0.8514 
+     MJE = 0.3999 
+     TF = 8.333E-10 
+     XTF = 2.41 
+     VTF = 6.262 
+     ITF = 0.097 
+     PTF = 0 
+     CJC = 6.396E-12 
+     VJC = 0.2182 
+     MJC = 0.333 
+     XCJC = 0.6288 
+     TR = 7E-08 
+     CJS = 0 
+     VJS = 0.75 
+     MJS = 0.333  
+     FC = 0.8981) 
*
.ENDS
*
