*
.SUBCKT BCV61B 1 2 3 4
*
Q1 2 1 3 QBCV61B 
Q2 1 1 4 QBCV61B 
*
.MODEL QBCV61B NPN( 
+     IS = 1.822E-14 
+     NF = 0.9932 
+     ISE = 2.894E-16 
+     NE = 1.4 
+     BF = 324.4 
+     IKF = 0.109 
+     VAF = 82 
+     NR = 0.9931 
+     ISC = 9.982E-12 
+     NC = 1.763 
+     BR = 8.29 
+     IKR = 0.09 
+     VAR = 17.9 
+     RB = 10 
+     IRB = 5E-06 
+     RBM = 5 
+     RE = 0.649 
+     RC = 0.7014 
+     XTB = 0 
+     EG = 1.11 
+     XTI = 3 
+     CJE = 1.244E-11 
+     VJE = 0.7579 
+     MJE = 0.3656 
+     TF = 4.908E-10 
+     XTF = 9.51 
+     VTF = 2.927 
+     ITF = 0.3131 
+     PTF = 0 
+     CJC = 3.347E-12 
+     VJC = 0.5463 
+     MJC = 0.391 
+     XCJC = 0.6193 
+     TR = 9E-08 
+     CJS = 0 
+     VJS = 0.75 
+     MJS = 0.333 
+     FC = 0.979)
.ENDS
*
