*
.SUBCKT BSP31 1 2 3 
* housing parasitics
LB 2 22 4.13-09 
LE 3 33 3.77E-09 
LC 1 11 4.1E-10 
CBCG 22 11 1.76E-13 
CBEG 22 33 8.6E-14 
CCEG 11 33 1.76E-13 
Q1 11 22 33 QBSP31
D1 11 22 DIODE 
*
* The diode does not reflect
* a physical device. instead it
* improves modeling in the
* reverse mode of operation
*
.MODEL QBSP31 PNP 
+ IS = 9.479E-14 
+ NF = 0.9941 
+ ISE = 3.842E-14 
+ NE = 1.45 
+ BF = 159.6 
+ IKF = 1.25 
+ VAF = 60 
+ NR = 0.9918 
+ ISC = 1E-14 
+ NC = 1.3 
+ BR = 14.96 
+ IKR = 0.1 
+ VAR = 22 
+ RB = 13 
+ IRB = 0.0002 
+ RBM = 0.1 
+ RE = 0.1007 
+ RC = 0.12 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.043E-10 
+ VJE = 0.8422 
+ MJE = 0.4153 
+ TF = 7.2E-10 
+ XTF = 3.2 
+ VTF = 6 
+ ITF = 1 
+ PTF = 0 
+ CJC = 4.616E-11 
+ VJC = 0.7383 
+ MJC = 0.5119 
+ XCJC = 1 
+ TR = 3.1E-07 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.98 
*
.MODEL DIODE D 
+ IS = 1.307E-13 
+ N = 1.078 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 243.7 
+ CJO = 1E-15 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 3E-07 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*

