*
.SUBCKT BSR43 1 2 3 
* housing parasitics
LB 2 22 3.454E-09 
LE 3 333 3.543E-09 
LC 1 11 1E-13 
CBCG 22 11 1.705E-13 
CBEG 22 333 6.5E-14 
CCEG 11 333 1.705E-13 
Q1 11 22 333 QBSR43
D1 22 11 DIODE 
*
* The diode does not reflect a physical
* device but improves only modeling
* in the reverse mode of operation
*
.MODEL QBSR43 NPN( 
+ IS = 4.638E-14 
+ NF = 0.9949 
+ ISE = 3.954E-16 
+ NE = 1.25 
+ BF = 145.2 
+ IKF = 0.55 
+ VAF = 91 
+ NR = 0.9994 
+ ISC = 2.3E-10 
+ NC = 1.891 
+ BR = 2.821 
+ IKR = 0.15 
+ VAR = 55 
+ RB = 55 
+ IRB = 2E-06 
+ RBM = 0.4 
+ RE = 0.391 
+ RC = 0.02 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.404E-11 
+ VJE = 0.7161 
+ MJE = 0.3543 
+ TF = 7.3E-10 
+ XTF = 9 
+ VTF = 5 
+ ITF = 1.6 
+ PTF = 0 
+ CJC = 2.79E-11 
+ VJC = 0.5208 
+ MJC = 0.4256 
+ XCJC = 1 
+ TR = 1.2E-07 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 )
*
.MODEL DIODE D (
+ IS = 9.8E-11 
+ N = 1.05 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 80 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3) 
.ENDS
*
