*
.SUBCKT BST40 1 2 3 
* housing parasitics
LB 2 22 3.453E-9 
LE 3 333 3.543E-09 
LC 1 11 1E-13 
CBCG 22 11 1.705E-13 
CBEG 22 333 6.5E-14 
CCEG 11 333 1.705E-13 
Q1 11 22 333 QBST40 AREA = 1 
D1 22 11 DIODE 
*
* The diode does not reflect a physical
* device but improves only modeling
* in the reverse mode of operation
*
.MODEL QBST40 NPN 
+ IS = 1.272E-14 
+ NF = 0.9815 
+ ISE = 1.929E-15 
+ NE = 1.278 
+ BF = 115.3 
+ IKF = 0.035 
+ VAF = 80 
+ NR = 0.975 
+ ISC = 1E-16 
+ NC = 4.472 
+ BR = 5.79 
+ IKR = 0.03 
+ VAR = 28 
+ RB = 390 
+ IRB = 2.94E-06 
+ RBM = 0.1 
+ RE = 0.194 
+ RC = 0.81 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 3.948E-11 
+ VJE = 0.755 
+ MJE = 0.3519 
+ TF = 1.3E-09 
+ XTF = 19 
+ VTF = 5 
+ ITF = 0.08 
+ PTF = 0 
+ CJC = 4.485E-12 
+ VJC = 0.1287 
+ MJC = 0.3746 
+ XCJC = 1 
+ TR = 5E-07 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
*
.MODEL DIODE D 
+ IS = 1E-13 
+ N = 1 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 621.1 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*
